US07592373B2
4.4.b. biphenyl-4-ylpropynoic acid
Prepared analogously to Example 3.4.b. from 3-biphenyl-4-yl-2,3-dibromopropanecarboxylic acid. Yield: 2.8 g (96.8% of theory); C15H10O2 (M=222.24); melting point: 170° C.; calc.: molecular ion peak (M+H)+: 223; found: molecular ion peak (M+H)+: 223; Rf value: 0.4 (silica gel, dichloromethane/methanol/acetic acid (90:10:1)).

reactant | 3-biphenyl-4-yl-2,3-dibromopropanecarboxylic acid | C1(=CC=C(C=C1)C(C(CC(=O)O)Br)Br)C1=CC=CC=C1 | C16H14Br2O2
reactant | dichloromethane methanol acetic acid | ClCCl.CO.C(C)(=O)O
product | biphenyl-4-ylpropynoic acid | C1(=CC=C(C=C1)C#CC(=O)O)C1=CC=CC=C1 | C15H10O2
